US05629290
D. 3,3-Diphenyl-but-1-yne
To a suspension containing 0.463 g (1.2 mol) of the compound of Preparation 1F in 100 ml of anhydrous methylene chloride, was added 0.227 g (1.2 mmol) of 2,4,5-trichlorophenol and 0.237 (1.28 mmol) dicylcohexylcarbodiimde (DCC). The resultant reaction mixture was allowed to react overnight at room temperature. When the reaction was substantially complete, as indicated by TLC, the reaction mixture was concentrated in vacuo and then mixed with diethyl ether resulting in the formation of fine white crystals. These crystals was dried to provide to provide 195 mg of the desired compound.

reactant | 2,4,5-trichlorophenol | 1.2 mmol, 0.227 g | ClC1=C(C=C(C(=C1)Cl)Cl)O | C6H3Cl3O
reactant | DCC | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 3,3-Diphenyl-but-1-yne | 195 mg, Yield: 34% | C1(=CC=CC=C1)C(C#C)(C)C1=CC=CC=C1 | C16H14
